* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2 p3 p4
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 -0.3085999830442564
Fd1_1 0 s1 V1 -15.429999152212822
Gr1_1_1 0 s1 x1_a1 0 109638719017152.47
Gr2_re_1_1 0 s1 x2_re_a1 0 -25556098370.120323
Gr2_im_1_1 0 s1 x2_im_a1 0 -3177328841.7975197
Gr3_re_1_1 0 s1 x3_re_a1 0 -1187958929.5813496
Gr3_im_1_1 0 s1 x3_im_a1 0 219614128.0847819
Gr4_re_1_1 0 s1 x4_re_a1 0 290379257995.06415
Gr4_im_1_1 0 s1 x4_im_a1 0 14739579918.075533
Gr5_re_1_1 0 s1 x5_re_a1 0 -298768026151.0445
Gr5_im_1_1 0 s1 x5_im_a1 0 -64779140269.10378
Gd1_2 0 s1 p2 0 0.0030213704079368213
Fd1_2 0 s1 V2 0.15106852039684107
Gr1_1_2 0 s1 x1_a2 0 -1073398509687.6656
Gr2_re_1_2 0 s1 x2_re_a2 0 237821022.29054055
Gr2_im_1_2 0 s1 x2_im_a2 0 29754030.12772442
Gr3_re_1_2 0 s1 x3_re_a2 0 12020873.102919485
Gr3_im_1_2 0 s1 x3_im_a2 0 -2153356.5625294014
Gr4_re_1_2 0 s1 x4_re_a2 0 -2622812479.5080914
Gr4_im_1_2 0 s1 x4_im_a2 0 -132792583.10986164
Gr5_re_1_2 0 s1 x5_re_a2 0 2703299904.238113
Gr5_im_1_2 0 s1 x5_im_a2 0 586042389.7978317
Gd1_3 0 s1 p3 0 -0.000353081023387351
Fd1_3 0 s1 V3 -0.01765405116936755
Gr1_1_3 0 s1 x1_a3 0 125444332601.71819
Gr2_re_1_3 0 s1 x2_re_a3 0 -30222023.57887907
Gr2_im_1_3 0 s1 x2_im_a3 0 -3780272.076658743
Gr3_re_1_3 0 s1 x3_re_a3 0 -1429918.546463818
Gr3_im_1_3 0 s1 x3_im_a3 0 264178.3407702973
Gr4_re_1_3 0 s1 x4_re_a3 0 348263544.83458996
Gr4_im_1_3 0 s1 x4_im_a3 0 17697997.300877135
Gr5_re_1_3 0 s1 x5_re_a3 0 -358052419.95770377
Gr5_im_1_3 0 s1 x5_im_a3 0 -77641195.40204123
Gd1_4 0 s1 p4 0 4.232083878487617e-06
Fd1_4 0 s1 V4 0.00021160419392438087
Gr1_1_4 0 s1 x1_a4 0 -1503561991.758256
Gr2_re_1_4 0 s1 x2_re_a4 0 347683.1584062887
Gr2_im_1_4 0 s1 x2_im_a4 0 43582.392103427395
Gr3_re_1_4 0 s1 x3_re_a4 0 17201.116566922796
Gr3_im_1_4 0 s1 x3_im_a4 0 -3118.109775802513
Gr4_re_1_4 0 s1 x4_re_a4 0 -3923687.867455452
Gr4_im_1_4 0 s1 x4_im_a4 0 -198992.4143926246
Gr5_re_1_4 0 s1 x5_re_a4 0 4038905.712114207
Gr5_im_1_4 0 s1 x5_im_a4 0 875495.0059486597
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 3.9909277292749136e-14
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 4.2675201940408995e-11
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 255213748836.01886
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -255213748836.01886
Rp2_im_im_a1 0 x2_im_a1 4.2675201940408995e-11
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 1.0013586962414918e-09
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 139064276949.77692
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -139064276949.77692
Rp3_im_im_a1 0 x3_im_a1 1.0013586962414918e-09
Cx4_re_a1 x4_re_a1 0 1.0
Gx4_re_a1 0 x4_re_a1 p1 0 0.1414213562373095
Fx4_re_a1 0 x4_re_a1 V1 7.0710678118654755
Rp4_re_re_a1 0 x4_re_a1 3.245730191733026e-08
Gp4_re_im_a1 0 x4_re_a1 x4_im_a1 0 891852023.6052331
Cx4_im_a1 x4_im_a1 0 1.0
Gp4_im_re_a1 0 x4_im_a1 x4_re_a1 0 -891852023.6052331
Rp4_im_im_a1 0 x4_im_a1 3.245730191733026e-08
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 2.568009415744614e-08
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 182426733.70651227
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -182426733.70651227
Rp5_im_im_a1 0 x5_im_a1 2.568009415744614e-08
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.003029189940712689
Fd2_1 0 s2 V1 0.15145949703563444
Gr1_2_1 0 s2 x1_a1 0 -1076176616563.1473
Gr2_re_2_1 0 s2 x2_re_a1 0 238468839.58072785
Gr2_im_2_1 0 s2 x2_im_a1 0 29834568.724276975
Gr3_re_2_1 0 s2 x3_re_a1 0 12050968.807901049
Gr3_im_2_1 0 s2 x3_im_a1 0 -2158921.5587428766
Gr4_re_2_1 0 s2 x4_re_a1 0 -2630174872.081306
Gr4_im_2_1 0 s2 x4_im_a1 0 -133166303.3322794
Gr5_re_2_1 0 s2 x5_re_a1 0 2710874893.216817
Gr5_im_2_1 0 s2 x5_im_a1 0 587684807.5373825
Gd2_2 0 s2 p2 0 -0.3041019756254647
Fd2_2 0 s2 V2 -15.205098781273236
Gr1_2_2 0 s2 x1_a2 0 108040717458257.69
Gr2_re_2_2 0 s2 x2_re_a2 0 -25202022557.779133
Gr2_im_2_2 0 s2 x2_im_a2 0 -3133030432.7408814
Gr3_re_2_2 0 s2 x3_re_a2 0 -1170063821.9350438
Gr3_im_2_2 0 s2 x3_im_a2 0 216408362.16723177
Gr4_re_2_2 0 s2 x4_re_a2 0 286474164867.22644
Gr4_im_2_2 0 s2 x4_im_a2 0 14541864937.115732
Gr5_re_2_2 0 s2 x5_re_a2 0 -294743105677.38464
Gr5_im_2_2 0 s2 x5_im_a2 0 -63906586459.07152
Gd2_3 0 s2 p3 0 6.929802448783425e-06
Fd2_3 0 s2 V3 0.00034649012243917124
Gr1_2_3 0 s2 x1_a3 0 -2461970918.0636363
Gr2_re_2_3 0 s2 x2_re_a3 0 559134.6517525024
Gr2_im_2_3 0 s2 x2_im_a3 0 69554.13644632148
Gr3_re_2_3 0 s2 x3_re_a3 0 26565.322539940364
Gr3_im_2_3 0 s2 x3_im_a3 0 -4858.59004610892
Gr4_re_2_3 0 s2 x4_re_a3 0 -6274537.241248975
Gr4_im_2_3 0 s2 x4_im_a3 0 -318008.3768873112
Gr5_re_2_3 0 s2 x5_re_a3 0 6460780.760220645
Gr5_im_2_3 0 s2 x5_im_a3 0 1400115.464201818
Gd2_4 0 s2 p4 0 -0.0003564399311568715
Fd2_4 0 s2 V4 -0.017821996557843577
Gr1_2_4 0 s2 x1_a4 0 126638071594.48076
Gr2_re_2_4 0 s2 x2_re_a4 0 -30657238.832268227
Gr2_im_2_4 0 s2 x2_im_a4 0 -3838363.2232148736
Gr3_re_2_4 0 s2 x3_re_a4 0 -1460873.215277275
Gr3_im_2_4 0 s2 x3_im_a4 0 269670.06789633376
Gr4_re_2_4 0 s2 x4_re_a4 0 353316339.3165068
Gr4_im_2_4 0 s2 x4_im_a4 0 17965720.823136915
Gr5_re_2_4 0 s2 x5_re_a4 0 -363218730.0023657
Gr5_im_2_4 0 s2 x5_im_a4 0 -78805946.92208736
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 3.9909277292749136e-14
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 4.2675201940408995e-11
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 255213748836.01886
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -255213748836.01886
Rp2_im_im_a2 0 x2_im_a2 4.2675201940408995e-11
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 1.0013586962414918e-09
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 139064276949.77692
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -139064276949.77692
Rp3_im_im_a2 0 x3_im_a2 1.0013586962414918e-09
Cx4_re_a2 x4_re_a2 0 1.0
Gx4_re_a2 0 x4_re_a2 p2 0 0.1414213562373095
Fx4_re_a2 0 x4_re_a2 V2 7.0710678118654755
Rp4_re_re_a2 0 x4_re_a2 3.245730191733026e-08
Gp4_re_im_a2 0 x4_re_a2 x4_im_a2 0 891852023.6052331
Cx4_im_a2 x4_im_a2 0 1.0
Gp4_im_re_a2 0 x4_im_a2 x4_re_a2 0 -891852023.6052331
Rp4_im_im_a2 0 x4_im_a2 3.245730191733026e-08
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 2.568009415744614e-08
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 182426733.70651227
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -182426733.70651227
Rp5_im_im_a2 0 x5_im_a2 2.568009415744614e-08
*
* Port network for port 3
V3 p3 s3 0
R3 s3 0 50.0
Gd3_1 0 s3 p1 0 -0.00035482654525730093
Fd3_1 0 s3 V1 -0.017741327262865047
Gr1_3_1 0 s3 x1_a1 0 126064452823.05647
Gr2_re_3_1 0 s3 x2_re_a1 0 -30356762.398611717
Gr2_im_3_1 0 s3 x2_im_a1 0 -3796787.5171324015
Gr3_re_3_1 0 s3 x3_re_a1 0 -1435909.8308205944
Gr3_im_3_1 0 s3 x3_im_a1 0 265288.79658107646
Gr4_re_3_1 0 s3 x4_re_a1 0 349746129.2039501
Gr4_im_3_1 0 s3 x4_im_a1 0 17773053.031642243
Gr5_re_3_1 0 s3 x5_re_a1 0 -359580531.8126067
Gr5_im_3_1 0 s3 x5_im_a1 0 -77972445.86693135
Gd3_2 0 s3 p2 0 3.4482531434964583e-06
Fd3_2 0 s3 V2 0.00017241265717482293
Gr1_3_2 0 s3 x1_a2 0 -1225103261.044017
Gr2_re_3_2 0 s3 x2_re_a2 0 290294.9764563932
Gr2_im_3_2 0 s3 x2_im_a2 0 36599.1836584922
Gr3_re_3_2 0 s3 x3_re_a2 0 14609.605728573137
Gr3_im_3_2 0 s3 x3_im_a2 0 -2642.637070615749
Gr4_re_3_2 0 s3 x4_re_a2 0 -3315787.7461583973
Gr4_im_3_2 0 s3 x4_im_a2 0 -168220.86449729424
Gr5_re_3_2 0 s3 x5_re_a2 0 3411204.4091230268
Gr5_im_3_2 0 s3 x5_im_a2 0 739060.9007120347
Gd3_3 0 s3 p3 0 0.10423841505129706
Fd3_3 0 s3 V3 5.211920752564853
Gr1_3_3 0 s3 x1_a3 0 -37036481167775.87
Gr2_re_3_3 0 s3 x2_re_a3 0 9772469098.811354
Gr2_im_3_3 0 s3 x2_im_a3 0 1241489952.1773167
Gr3_re_3_3 0 s3 x3_re_a3 0 483341381.1860946
Gr3_im_3_3 0 s3 x3_im_a3 0 -89162169.40240467
Gr4_re_3_3 0 s3 x4_re_a3 0 -116689506379.96169
Gr4_im_3_3 0 s3 x4_im_a3 0 -5946608601.732082
Gr5_re_3_3 0 s3 x5_re_a3 0 119744689774.83202
Gr5_im_3_3 0 s3 x5_im_a3 0 25972393797.833786
Gd3_4 0 s3 p4 0 -0.0001402108911475186
Fd3_4 0 s3 V4 -0.007010544557375931
Gr1_3_4 0 s3 x1_a4 0 49809809998.355385
Gr2_re_3_4 0 s3 x2_re_a4 0 -10038593.697673935
Gr2_im_3_4 0 s3 x2_im_a4 0 -1196858.3068627429
Gr3_re_3_4 0 s3 x3_re_a4 0 -298145.09688697354
Gr3_im_3_4 0 s3 x3_im_a4 0 59909.90843523392
Gr4_re_3_4 0 s3 x4_re_a4 0 116836376.64766453
Gr4_im_3_4 0 s3 x4_im_a4 0 5774247.484075895
Gr5_re_3_4 0 s3 x5_re_a4 0 -120452955.85700224
Gr5_im_3_4 0 s3 x5_im_a4 0 -25426051.80589611
*
* State networks driven by port 3
Cx1_a3 x1_a3 0 1.0
Gx1_a3 0 x1_a3 p3 0 0.07071067811865475
Fx1_a3 0 x1_a3 V3 3.5355339059327378
Rp1_a3 0 x1_a3 3.9909277292749136e-14
Cx2_re_a3 x2_re_a3 0 1.0
Gx2_re_a3 0 x2_re_a3 p3 0 0.1414213562373095
Fx2_re_a3 0 x2_re_a3 V3 7.0710678118654755
Rp2_re_re_a3 0 x2_re_a3 4.2675201940408995e-11
Gp2_re_im_a3 0 x2_re_a3 x2_im_a3 0 255213748836.01886
Cx2_im_a3 x2_im_a3 0 1.0
Gp2_im_re_a3 0 x2_im_a3 x2_re_a3 0 -255213748836.01886
Rp2_im_im_a3 0 x2_im_a3 4.2675201940408995e-11
Cx3_re_a3 x3_re_a3 0 1.0
Gx3_re_a3 0 x3_re_a3 p3 0 0.1414213562373095
Fx3_re_a3 0 x3_re_a3 V3 7.0710678118654755
Rp3_re_re_a3 0 x3_re_a3 1.0013586962414918e-09
Gp3_re_im_a3 0 x3_re_a3 x3_im_a3 0 139064276949.77692
Cx3_im_a3 x3_im_a3 0 1.0
Gp3_im_re_a3 0 x3_im_a3 x3_re_a3 0 -139064276949.77692
Rp3_im_im_a3 0 x3_im_a3 1.0013586962414918e-09
Cx4_re_a3 x4_re_a3 0 1.0
Gx4_re_a3 0 x4_re_a3 p3 0 0.1414213562373095
Fx4_re_a3 0 x4_re_a3 V3 7.0710678118654755
Rp4_re_re_a3 0 x4_re_a3 3.245730191733026e-08
Gp4_re_im_a3 0 x4_re_a3 x4_im_a3 0 891852023.6052331
Cx4_im_a3 x4_im_a3 0 1.0
Gp4_im_re_a3 0 x4_im_a3 x4_re_a3 0 -891852023.6052331
Rp4_im_im_a3 0 x4_im_a3 3.245730191733026e-08
Cx5_re_a3 x5_re_a3 0 1.0
Gx5_re_a3 0 x5_re_a3 p3 0 0.1414213562373095
Fx5_re_a3 0 x5_re_a3 V3 7.0710678118654755
Rp5_re_re_a3 0 x5_re_a3 2.568009415744614e-08
Gp5_re_im_a3 0 x5_re_a3 x5_im_a3 0 182426733.70651227
Cx5_im_a3 x5_im_a3 0 1.0
Gp5_im_re_a3 0 x5_im_a3 x5_re_a3 0 -182426733.70651227
Rp5_im_im_a3 0 x5_im_a3 2.568009415744614e-08
*
* Port network for port 4
V4 p4 s4 0
R4 s4 0 50.0
Gd4_1 0 s4 p1 0 5.421554915633811e-06
Fd4_1 0 s4 V1 0.0002710777457816906
Gr1_4_1 0 s4 x1_a1 0 -1926137308.43813
Gr2_re_4_1 0 s4 x2_re_a1 0 439351.9797381521
Gr2_im_4_1 0 s4 x2_im_a1 0 54814.495831106535
Gr3_re_4_1 0 s4 x3_re_a1 0 21236.934806344976
Gr3_im_4_1 0 s4 x3_im_a1 0 -3867.1707122356765
Gr4_re_4_1 0 s4 x4_re_a1 0 -4935562.348588021
Gr4_im_4_1 0 s4 x4_im_a1 0 -250166.9737321023
Gr5_re_4_1 0 s4 x5_re_a1 0 5081828.662765028
Gr5_im_4_1 0 s4 x5_im_a1 0 1101307.7916649466
Gd4_2 0 s4 p2 0 -0.00035637797557961005
Fd4_2 0 s4 V2 -0.017818898778980505
Gr1_4_2 0 s4 x1_a2 0 126616061144.9468
Gr2_re_4_2 0 s4 x2_re_a2 0 -30652489.416657094
Gr2_im_4_2 0 s4 x2_im_a2 0 -3837784.643701912
Gr3_re_4_2 0 s4 x3_re_a2 0 -1460671.3385902783
Gr3_im_4_2 0 s4 x3_im_a2 0 269632.2025799685
Gr4_re_4_2 0 s4 x4_re_a2 0 353264040.4188089
Gr4_im_4_2 0 s4 x4_im_a2 0 17963074.70701545
Gr5_re_4_2 0 s4 x5_re_a2 0 -363164824.5144924
Gr5_im_4_2 0 s4 x5_im_a2 0 -78794269.04537557
Gd4_3 0 s4 p3 0 -0.00014429662310076516
Fd4_3 0 s4 V3 -0.007214831155038259
Gr1_4_3 0 s4 x1_a3 0 51261505125.37423
Gr2_re_4_3 0 s4 x2_re_a3 0 -10426413.15401344
Gr2_im_4_3 0 s4 x2_im_a3 0 -1246247.1347238636
Gr3_re_4_3 0 s4 x3_re_a3 0 -317628.8703797097
Gr3_im_4_3 0 s4 x3_im_a3 0 63496.5823097301
Gr4_re_4_3 0 s4 x4_re_a3 0 121472045.77480389
Gr4_im_4_3 0 s4 x4_im_a3 0 6010753.583241711
Gr5_re_4_3 0 s4 x5_re_a3 0 -125209136.33303608
Gr5_im_4_3 0 s4 x5_im_a3 0 -26458691.446063615
Gd4_4 0 s4 p4 0 0.09378629796320118
Fd4_4 0 s4 V4 4.689314898160059
Gr1_4_4 0 s4 x1_a4 0 -33323365754123.63
Gr2_re_4_4 0 s4 x2_re_a4 0 9020628446.859362
Gr2_im_4_4 0 s4 x2_im_a4 0 1151740823.9913795
Gr3_re_4_4 0 s4 x3_re_a4 0 460718813.59394485
Gr3_im_4_4 0 s4 x3_im_a4 0 -84626151.37921701
Gr4_re_4_4 0 s4 x4_re_a4 0 -107934584553.4303
Gr4_im_4_4 0 s4 x4_im_a4 0 -5513368348.7904415
Gr5_re_4_4 0 s4 x5_re_a4 0 110719611202.04591
Gr5_im_4_4 0 s4 x5_im_a4 0 24064867119.901054
*
* State networks driven by port 4
Cx1_a4 x1_a4 0 1.0
Gx1_a4 0 x1_a4 p4 0 0.07071067811865475
Fx1_a4 0 x1_a4 V4 3.5355339059327378
Rp1_a4 0 x1_a4 3.9909277292749136e-14
Cx2_re_a4 x2_re_a4 0 1.0
Gx2_re_a4 0 x2_re_a4 p4 0 0.1414213562373095
Fx2_re_a4 0 x2_re_a4 V4 7.0710678118654755
Rp2_re_re_a4 0 x2_re_a4 4.2675201940408995e-11
Gp2_re_im_a4 0 x2_re_a4 x2_im_a4 0 255213748836.01886
Cx2_im_a4 x2_im_a4 0 1.0
Gp2_im_re_a4 0 x2_im_a4 x2_re_a4 0 -255213748836.01886
Rp2_im_im_a4 0 x2_im_a4 4.2675201940408995e-11
Cx3_re_a4 x3_re_a4 0 1.0
Gx3_re_a4 0 x3_re_a4 p4 0 0.1414213562373095
Fx3_re_a4 0 x3_re_a4 V4 7.0710678118654755
Rp3_re_re_a4 0 x3_re_a4 1.0013586962414918e-09
Gp3_re_im_a4 0 x3_re_a4 x3_im_a4 0 139064276949.77692
Cx3_im_a4 x3_im_a4 0 1.0
Gp3_im_re_a4 0 x3_im_a4 x3_re_a4 0 -139064276949.77692
Rp3_im_im_a4 0 x3_im_a4 1.0013586962414918e-09
Cx4_re_a4 x4_re_a4 0 1.0
Gx4_re_a4 0 x4_re_a4 p4 0 0.1414213562373095
Fx4_re_a4 0 x4_re_a4 V4 7.0710678118654755
Rp4_re_re_a4 0 x4_re_a4 3.245730191733026e-08
Gp4_re_im_a4 0 x4_re_a4 x4_im_a4 0 891852023.6052331
Cx4_im_a4 x4_im_a4 0 1.0
Gp4_im_re_a4 0 x4_im_a4 x4_re_a4 0 -891852023.6052331
Rp4_im_im_a4 0 x4_im_a4 3.245730191733026e-08
Cx5_re_a4 x5_re_a4 0 1.0
Gx5_re_a4 0 x5_re_a4 p4 0 0.1414213562373095
Fx5_re_a4 0 x5_re_a4 V4 7.0710678118654755
Rp5_re_re_a4 0 x5_re_a4 2.568009415744614e-08
Gp5_re_im_a4 0 x5_re_a4 x5_im_a4 0 182426733.70651227
Cx5_im_a4 x5_im_a4 0 1.0
Gp5_im_re_a4 0 x5_im_a4 x5_re_a4 0 -182426733.70651227
Rp5_im_im_a4 0 x5_im_a4 2.568009415744614e-08
.ENDS s_equivalent
